US07767672B2
N-tert-butyl-1-benzhydryl-3-methylazetidin-3-amine hydrochloride
To a solution of 1-benzhydryl-3-methylazetidin-3-yl methanesulfonate (2.00 g, 6.23 mmol) in iso-propanol (10 ml) was added tert-butyl amine (1.36 g, 18.63 mmol). The mixture was heated at 80° C. for 3 h. The reaction mixture was then allowed to cool to room temperature and concentrated. The residue was slurried with ethyl acetate and filtered, washing with further ethyl acetate and then concentrated to give a solid. The solid was slurried in ether and hydrochloric acid (20 ml, 2M in ether) was added, then stirred for 10 mins and filtered to provide the title compound as a tan solid (1.69 g, 74%). 1H NMR (DMSO) 1.40 (9H, s), 1.99 (3H, s), 3.85 (2H, brs), 4.11 (2H, brs), 4.71 (1H, brs), 7.35-7.50 (6H, m), 7.70-7.81 (4H, m), 10.23 (1H, s).

reactant | 1-benzhydryl-3-methylazetidin-3-yl methanesulfonate | 6.23 mmol, 2.00 g | CS(=O)(=O)OC1(CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1)C | C18H21NO3S
reactant | tert-butyl amine | 18.63 mmol, 1.36 g | C(C)(C)(C)N | C4H11N
reactant | hydrochloric acid | 2M, 20 ml | Cl | ClH
solvent | iso-propanol | 10 ml | C(C)(C)O | C3H8O
solvent | ether | CCOCC | C4H10O
product | N-tert-butyl-1-benzhydryl-3-methylazetidin-3-amine hydrochloride | 1.69 g, 74% | Cl.C(C)(C)(C)NC1(CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C21H28N2.ClH/c1-20(2,3)22-21(4)15-23(16-21)19(17-11-7-5-8-12-17)18-13-9-6-10-14-18;/h5-14,19,22H,15-16H2,1-4H3;1H
